US04032536
A solution of 6 parts of 4-(5,5-dimethyl-2-phenyl-1,3-dioxan-2yl)-1,2-benzenediamine, 4.95 parts of methyl [(methylcarbonylamino)(methylthio)methylene[carbamate and 5 parts of acetic acid in 300 parts of trichloromethane is stirred and refluxed for 24 hours. The reaction mixture is evaporated and the residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated, yielding 3.7 parts (48.5%) of methyl [5-(5,5-dimethyl-2-phenyl-1,3-dioxan-2-yl)-1H-benzimidazol-2-yl]carbamate; mp. 224.5° C.

reactant | 4-(5,5-dimethyl-2-phenyl-1,3-dioxan-2yl)-1,2-benzenediamine | CC1(COC(OC1)(C1=CC=CC=C1)C=1C=C(C(=CC1)N)N)C | C18H22N2O2
reactant | carbamate | C(N)([O-])=O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
product | methyl [5-(5,5-dimethyl-2-phenyl-1,3-dioxan-2-yl)-1H-benzimidazol-2-yl]carbamate | 48.5% | CC1(COC(OC1)(C1=CC=CC=C1)C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)C | C21H23N3O4
